data/mechanism_extracts/Angew/10.1002_anie.202016620.json
{"doi": "10.1002_anie.202016620", "journal": "Angew", "is_review": false, "rxn_class_summary": "Electrochemical three-component radical 1,2-silyl-oxygenation of electron-deficient alkenes with hydrosilanes and N-hydroxy (N-oxyl) compounds to give β-silyl-oxygenated products.", "mechanism_family": ["radical_anodic", "mediator_anodic", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of N-hydroxyphthalimide (NHPI) to the phthalimido-N-oxyl radical (PINO), which performs HAT on the Si-H bond to generate the silyl radical; protons are reduced at the cathode to H2.", "key_intermediates": [{"name": "phthalimido-N-oxyl radical (PINO)", "smiles": "O=C1N(O[O])C(=O)c2ccccc12", "role": "reactive"}, {"name": "silyl radical (e.g. Ph3Si•)", "smiles": "[Si](c1ccccc1)(c1ccccc1)c1ccccc1", "role": "reactive"}, {"name": "β-silyl carbon radical (Int-1) from silyl addition to alkene", "smiles": null, "role": "reactive"}, {"name": "N-oxyl species (NHPI / R2N-OH)", "smiles": "O=C1N(O)C(=O)c2ccccc12", "role": "resting_state"}], "electron_flow": "At the anode, NHPI is oxidized (with proton loss) to PINO, which abstracts H from the hydrosilane to give a silyl radical; the silyl radical adds to the electron-deficient alkene to form a β-silyl C-radical, which is trapped by a second N-oxyl radical to deliver the C-O bond, while protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "3.0 equiv TEMPO completely suppressed the reaction; product 4a not detected, consistent with radical intermediates."}, {"name": "vinylcyclopropane (substrate 9, dimethyl/ethyl ester-substituted)", "smiles": null, "purpose": "radical_clock", "observation": "Ring-opened product 10 isolated in 28% yield, supporting a β-silyl C-radical intermediate (Int-1)."}, {"name": "NHPI / Ph3SiH (CV study)", "smiles": "O=C1N(O)C(=O)c2ccccc12", "purpose": "redox_probe", "observation": "CV showed NHPI has lower oxidation potential than Ph3SiH; a new oxidation peak appeared for the NHPI + Ph3SiH mixture, supporting NHPI-mediated anodic oxidation/HAT."}], "evidence_types_used": ["radical_clock", "intermediate_trap_TEMPO", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "Mechanism is mediator-based: NHPI/PINO serves as an HAT mediator at the anode to generate silyl radicals from hydrosilanes, avoiding direct silane oxidation. The N-oxyl moiety plays a dual role — anodic mediator and the oxygen-coupling partner that traps the β-silyl C-radical. Cathodic half-reaction is H2 evolution in an undivided cell."}
